US05641889
(+)-(1S, 2R, 4R)-4-[2-Amino-6-(1-pyrrolidinyl)-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol
(+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol (426 mg 1.5 mmol), pyrrolidine (99%, Aldrich, 1.26 mL), and ethanol (8 mL) were refluxed for 20 minutes. To the cooled solution was added 1N sodium hydroxide (1.5 mL). Volatiles were evaporated and the residue chromatographed on silica gel. Title compound was eluted with 12% methanol-chloroform as a white solid foam which solidified from 95% ethanol to white powder (324 mg, 64% ); mp 114°-117°; mass spectrum (Cl, CH4): 319(M+1); 1H-NMR (DMSO-d6)δ: 7.81 (s, 1, H-8), 5.76 (br s, 2, NH2), 5.0-4.8 (m, 1, CHN), 4.76(d, J=4.1 Hz, 1, OH), 4.66 (t, J=5.2 Hz, 1, CH2OH), 4.15-4.0 (m, overlapping br m at 4.1-3.4 and m at 3.6-3.35, total 7, CHO, 2CH2N and CH2O), 2.4-2.2 (m, 1, 1/2CH2), 2.2-1.8 (m, 7,methylenes), 1.7-1.5(m, 1, 1/2CH2); [α]20589 +10.5°, [α]20578 +11.00°, [α]20546 +12.4°, [α]20436 +19.5°, [α]20365 +25.5°(c=1.43, methanol).

reactant | (+)-(1S, 2R, 4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-(hydroxymethyl)cyclopentanol | 1.5 mmol, 426 mg | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)Cl | C11H14ClN5O2
reactant | pyrrolidine | 1.26 mL | N1CCCC1 | C4H9N
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | (+)-(1S, 2R, 4R)-4-[2-Amino-6-(1-pyrrolidinyl)-9H-purin-9-yl]-2-(hydroxymethyl)-1-cyclopentanol | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C[C@@H]([C@H](C1)O)CO)N1CCCC1 | C15H22N6O2
